Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
latex
 
Attending: ___.
 
Chief Complaint:
"It was recommended by my psychiatrist I come
inpatient."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Mr. ___ is a ___ yo ___ male with a hx of
depression and cutting and prior hospitalization in ___ for
cutting requiring stitches which he endorses as an SA, no PMH
other than eczema and unclear asthma, who presented to his
outpatient psychiatrist today endorsing depression. He was 
placed
on a ___ by outpatient office and was BIBA with EMS to
___ ED.

HISTORY OF PRESENT ILLNESS:
Per Dr. ___ ___ ED Initial Psychiatry
Consult note:

"When asked why he is in the ED, the patient reports that he
consistently goes to his therapist appointments (every other
week) to talk about life but "this week was different." He 
states
that he spoke about the last couple of weeks about "both good 
and
bad news." During this encounter with his outpatient provider,
the patient states now that he denied urge to cut himself but
that he is still in the "habit" of doing this. Because of this,
the provider recommended an inpatient course as the patient had
done this before for self-harm ___ months ago, cutting his arm a
few times and needing stitches which led to an inpatient
psychiatric admission. The patient is aware that the provider 
had
sent the patient to our ED for psychiatric evaluation.

He states that his last cutting was a few weeks ago. Denies SI.
Prior SA of cutting as above (with intent to die) with
hospitalization for that incident but no other hx of SAs. 

The patient describes that he has a therapist ___ as
well as psychiatrist Dr. ___. Today the pt had a 
meeting
with both providers. Typically he sees both providers on the 
same
day about every other week. He has been working with Dr. ___ 
___
a year and ___ for 3 months but another therapist before 
that.
States his providers are helpful.

He relays that his current medications include fluoxetine
(prozac) for past year. He is not sure if it helps. He is
currently taking 20 mg daily. He was previously taking 60 mg
daily in the context of cutting. Decrease to 20 mg about a week
ago. He states this decrease has been okay with him as it is 
more
convenient in terms of dosing. He denies any changes in mood on 
a
decreased dose. He believes that therapy has been more helpful
for him than the medications. He also reports having tried
risperidone and believes this was to help him sleep, but states
he is no longer taking this medication, for unclear reasons.  

Mood now is "okay." He states that he suffers depression as well
as insomnia. States he has had depression for about ___ years. 
He
states that things are just "dragging along," "waiting for the
future." He tries to believe in God being there for him but then
He doesn't show it. Identifies as ___.

As social context, the patient notes he has been job searching
for ___ jobs. His last ___ job was in ___, with 
financial constraints and stressors since that time. He lives
with his mom and sister, but describes that he is split between
two households as he also sometimes lives with his grandmother.
He notes that an additional stressor includes "being a black
male." States that he gets along with family. States he tries to
be a role model for his sister. No relationship changes or other
issues.

He denies that his cutting is particularly triggered by
stressors. He cuts for emotional release. He started cutting at
age ___ but denies any particular changes or stressors back then.

He also endorses utilizing marijuana once a month and is aware
that prior providers advised against this.

He states his mom wants his mind "to be in a good place." 
Patient
is not sure why providers wanted him to go inpatient, but
believes this is due to his endorsement of cutting, as he had
prior cutting episode that led to an inpatient admissions. He
believes he is currently safe outside of the hospital but he
states his urges to cut come and go.

When asked how we can be helpful, he states he is not sure.

COLLATERAL:

See full Collateral from Psychiatrist in note from Dr. 
___ today.

In addition, per collateral information sent from Psychiatrist
Dr. ___ to Dr. ___ shared with this author:

Psychiatrist had met with the patient urgently today given
reported recent incidences at home. The patient described 
cutting
2 days ago. During this interview he was noted to become
increasingly disorganized. In the encounter, the patient did 
note
several psychosocial stressors including moving in with
grandmother, death in family, tension with parents (Dad and 
Mom).
Patient reported compliance with Fluoxetine 20 mg daily. He also
reported taking the Risperidone 3 times and that this was 
helpful
(slept well and felt rested) but mother had concerns and had
taken it away from him (further details or rationale for this 
not
outlined in collateral). 

These notes state that the patient has a high risk of self-harm
given his increased cutting (including with box cutter) as well
as hx of serious cutting leading to multiple stitches and
hospitalization. In addition, per those notes, the patient has
also made current references to cutting deep enough to die to
outpatient psychiatrist. He is also noted to have depressive
symptoms, disorganized thinking and behavior, and severe social
stressors. 

In addition, he is noted to have moderate risk of harming others
given disorganized thinking and behavior, recently destroying
property with an umbrella, and recently being in a physical
altercation with his mother for the first time. In a note dated
___, psychiatrist reports he spoke via phone with mother who
reported that the patient had yelled and thrown his television
and computer in his room, then subsequently broke his mother's
computer, as well as broke other property in the home with an
umbrella. The week prior, his mother asked him to leave to
grandmother's house, but he restrained his mother, which was new
behavior for him. 

In a note dated ___, the patient had endorsed cutting arm
two weeks prior with razor, stating he had been using the end of
a box cutter and switch blade. He also endorsed SI lately with
plan to cut. He had stated that he punishes himself when things
go badly."

Per Dr. ___ ___ Telephone Collateral Note:

"Spoke to patient's psychiatrist Dr. ___ (cell
___ to receive information about safety concerns; Dr.
___ is also part of ___ system and emailed me recent notes
with I reviewed and forwarded to on-call resident Dr. ___.

Dr. ___ that he first saw patient in ___ 
that
time, patient had dropped out of college in ___, and there were
concerns for depression (patient had PHQ9 score of 20).  Patient
did not follow-up after that intake.  In ___, he was
hospitalized at ___ after cutting himself
longitudinally and deeply on forearm with intent to die 
(required
approximately 18 stitches--per emailed records did not have
intent to die).  Dr. ___ him after that hospitalization, in
___.  He started Prozac for depression, titrated to
40mg/day.  Patient reported that he was doing well without
SI/cutting, but was not engaged in care/coming to followup.  
When
Dr. ___ him in ___ (first time seeing in ___
weeks), patient reported that things had not been going well.  
He
had been cutting for the past 3 months with switchblades and
boxcutters, and had lost his job.  Dr. ___ was concerned for
emerging psychosis due to several odd statements.  Patient said
that he was cutting himself in order to punish/mark himself "to
keep a record of what was happening...when I was running around
and being a hooligan."  He also reported taking Viagra to "take
his mind off things" (not in a sexual way), and made other
similarly odd statements.  Concerend for a psychotic depression,
Dr. ___ fluoxetine along with risperidone.  However,
patient reported that he was only able to take risperidone 3
times before his mother confiscated it.

In the past week, Dr. ___ has been more concerned for patient. 
When he tried to call patient at home ___, he ended up
speaking to  patient's mother: she described him as "out of
control."  She said that  patient used an umbrella to smash his
computer and television and his mother's computer, and that he
had physically "restrained" his mother with his hands, so she
sent him to stay with his grandmother/father.  Dr. ___
patient come in today.  He notes that patient initially presents
without obvious psychotic content, but "unraveled" over the
course of the interview.  He became increasingly disorganized,
tangential, and agitated over the course of the interview,
talking about piglets growing into pigs as a sign of what's 
wrong
with his generation in a way that did not make sense.  He
reported last cutting 2 days prior.  Dr. ___ him 4
separate times if he was suicidal and he did not answer the
question.  He then said "I'm so overwhelmed, of course my life 
is
in jeopardy, I could do the deeper cuts instead of the shallower
cuts."  He also said "I could either be in jail or hurt myself,
and I guess I'll hurt myself because that was better."  He 
agreed
to come to hospital but Dr. ___ sent on S12 as he is concerned
that patient is an acute danger to himself and others, and
requires inpatient hospitalization.  Felt that during
hospitalization, patient would benefit from further evaluation
for bipolar diathesis, titration of antipsychotic medication, 
and
family work as patient reported his mother interfering with his
ability to take medications.

In terms of other psychiatric history, patient has a prior h/o
cannabis use but told Dr. ___ he has not smoked in months. 

Patient referred to being physically disciplined by his mother 
in
the past by being beaten with a pole.

Current meds (doses in ___ paperwork): Epipen PRN, mometasone,
fluoxetine, risperidone

Allergies: Latex gloves (hives) and strawberries (hives)

Dr. ___ is available by cell phone urgently and by
email-non-urgently as needed, and would appreciate being updated
regarding disposition."

Per EMS run report, the patient was placed on a ___ from
his psychiatrist for increasing depression and SI/HI. He also
reported cutting a couple of days ago. He denied AVH or any
substances. He was found by EMS sitting at his psychiatrist's
office and was transported to ___ ED without incident.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Prior diagnoses: MDD, Panic disorder
-Hospitalizations: one prior hospitalization at ___ ___
-Partial hospitalizations: denies
-Psychiatrist: Dr. ___ 
-Therapist: ___
-Medication trials: currently on prozac, trial of risperidone
-___ trials: denies
-Suicide attempts: cut requiring stitches and resulting in
hospitalization as per HPI. At this encounter, pt endorses that
was an intent to die.
-Self-injurious behavior: cutting as per HPI
-Harm to others: recent with mother as per HPI
-Trauma: denies
-Access to weapons: denies

PAST MEDICAL HISTORY:
Eczema 
Asthma (per collateral info) - pt denies, states he was told 
this
one time but he did not follow up with this. No recent sxs, no
use of inhalers.
**PCP: ___  ___, MD
___ history of head trauma, seizure.
 
Social History:
 Cigarettes: very rarely otherwise denies
- EtOH: denies
- Illicits/IVDU: prior use of MJ, first time last year. Uses
approx once monthly

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: per pt denies. per collateral notes
depression in distant relatives
-___ Use ___: denies
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
EXAM:
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted. Some old scars noted on
primarily L arm, with none looking recent. Dry skin on shins.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: DOWB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "You're assuming your peers have a better
lifestyle than you."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Admission 
Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed,
wearing hospital gown, in no apparent distress
-Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Okay"
-Affect: Mood-congruent, restricted range, some odd smiling 
-Speech: Normal rate and tone, lowered volume
-Thought process: Mostly linear but sometimes tangential,
coherent, goal-oriented, no loose associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Poor
-Judgment: Poor
=
=
=
================================================================
Discharge
Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed, 
in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative, engaged, friendly
-Mood: "Okay"
-Affect: Mood-congruent, restricted range, appropriate to 
situation
-Speech: Normal rate and tone, lowered volume
-Thought process: grossly linear, goal-oriented, no loose 
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: limited 
-Judgment: fair 
 
Pertinent Results:
___ 09:20AM   ALT(SGPT)-16 AST(SGOT)-18 ALK PHOS-67 TOT 
BILI-0.6
___ 09:20AM   TSH-1.2
___ 09:10PM URINE  HOURS-RANDOM
___ 09:10PM URINE  HOURS-RANDOM
___ 09:10PM URINE  HOURS-RANDOM
___ 09:10PM URINE  UHOLD-HOLD
___ 09:10PM URINE  GR HOLD-HOLD
___ 09:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:05PM   GLUCOSE-80 UREA N-12 CREAT-1.2 SODIUM-144 
POTASSIUM-4.4 CHLORIDE-104 TOTAL CO2-27 ANION GAP-13
___ 06:05PM   estGFR-Using this
___ 06:05PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 06:05PM   WBC-9.4 RBC-5.25 HGB-15.9 HCT-49.2 MCV-94 
MCH-30.3 MCHC-32.3 RDW-11.9 RDWSD-41.5
___ 06:05PM   NEUTS-69.6 ___ MONOS-5.5 EOS-1.1 
BASOS-0.3 IM ___ AbsNeut-6.54* AbsLymp-2.18 AbsMono-0.52 
AbsEos-0.10 AbsBaso-0.03
___ 06:05PM   PLT COUNT-227
___ 06:15AM BLOOD %HbA1c-5.3 eAG-105
___ 06:15AM BLOOD Triglyc-78 HDL-42 CHOL/HD-3.8 LDLcalc-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  They were also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
Mr. ___ is a ___ yo ___ male with a hx of 
depression and cutting and prior hospitalization in ___ for 
cutting requiring stitches which he endorses as an SA, no PMH 
other than eczema and unclear asthma, who presented to his 
outpatient psychiatrist today endorsing depression. He was 
placed on a ___ by outpatient office and was BIBA with 
EMS to ___ ED.

On initial presentation Mr. ___ stated he had presented to 
his outpatient psychiatrist office and endorsed worsening 
depressive symptoms, both him and his psychiatrist then decided 
that patient should be transferred to a more intensive treatment 
setting to which Mr. ___ agreed. Mr. ___ stated he had 
been struggling with depression for a long time, he could not 
provide specifics regarding his symptoms and denied all other 
neuro-vegetative symptoms. He did note he had been having more 
arguments with his mother, and had recently lost his job. He 
mentioned wandering his neighborhood by himself, and having 
difficulty being productive. Regarding his self-harm behaviors 
patient was always vague when describing these and could not 
provide a reasoning for his cutting other than being depressed. 
He did note that his cuts were not to obtain a since of relief 
but more as a was to mark, or document ( he could not elaborate 
on these ideas further).  On initial MSE patient was observed to 
be pleasant and engaged with interview, but had an odd affect, 
would smile inappropriately, and stare intensely at times. His 
though process ranged from linear to disorganized. At times 
having loosening of associations particularly when asked 
open-ended questions. 
 
Collateral from Dr. ___ outpatient psychiatrist for the pas 
___ years was concerning for new disorganized thought process and 
baseline bizarre ideation, such as patient taking Viagra for 
health and not for sexual purposes. Patient noting his cutting 
was done in order to mark important events in his life. 
Psychiatrist was concerned for possible prodromal process and 
asked aid for diagnostic clarification.  On ___ family 
meeting was held with patients mother (Ms. ___. 
___, ___, and Dr. ___ MD, there mother mentioned a 
change in Mr. ___ ___ years ago. Which started by patient 
leaving college, in order to work locally. Mother thought 
patient was depressed, and brought him to therapy, on ___ 
patient had cut his arm badly and required medical attention. 
Mother was concerned about patients behavior and safety, as he 
has not appeared to improve.  

On ___ patient was able to participate in psychological 
testing completed by Dr. ___.  The test results 
were concerning for psychosis.  As they were positive for 
increased distress, difficulties with judgment (unusual 
responses), somatic preoccupation, depression with low self 
esteem, increased scores on paranoia scales. Pt also reported 
increased self harm scale (in the context of suicide attempt by 
cutting). High score on ego centricity scale (preoccupation with 
internal experiences).

After obtaining the results for this test Mr. ___ was able 
to share he had been a experiencing episodes of hearing voices 
on/off since high school. Within last ___, hallucinations got 
worse. He described different types of voices that he hears 
outside of the head. They usually "comment" on patients actions. 
 Given all the collateral, psychological testing and clinical 
examinations patients presentation is most consistent with an 
unspecified psychotic disorder likely schizophrenia given his 
symptoms have been more notable in the past year. 

On ___ patient was started on ___ 0.5 mg QHS, which 
was up titrated to 1 mg QHS on ___. On ___ it was up 
titrated to 2 mg QHS which patient tolerated well with no 
reported negative side effects. Patient endorsed after starting 
on ___ he was no longer able to hear the auditory 
hallucinations. Regarding his suicidality patient continued to 
report depressed mood and although denied suicidal ideation and 
thoughts of self harm. 

On day of discharge patient was no longer endorsing auditory 
hallucinations, had improved thought process, was able to carry 
out conversations in a more linear fashion. His affect continued 
to be flat but appropriate to situation. He was motivated to 
continue to search for work, and continue his outpatient 
treatment with his outpatient providers. He was provided with 
referrals to outpatient psychiatry , therapy, and primary care. 

3. SUBSTANCE USE DISORDERS:
#) Patient has a history of cannabis use although denies 
currently
-Was provided with psycho-education on the use of cannabis and 
deleterious effect on mental health 
-Provided counseling regarding community supports including AA 
and NA 

4. MEDICAL
#)# Asthma
- Patient currently denying symptoms and not currently on any 
medications for this

# Eczema
- Continue home medication of Mometasone Furoate

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  The patient was pleasant with 
staff and peers, respectful and responsive, able to follow unit 
rules. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient provided verbal consent for team to contact outpatient 
provider ___ as well as mother for collateral and 
disposition planning. 

On ___, a 50 ___ family meeting was held with pt, his 
mother (Ms. ___, ___ and ___ were present. In short, 
pt's mother is well connected with pt. Per pt's mother, pt was 
quite successful and athletic student. He was accepted at 
several colleges and attended school in ___ on full 
scholarship. Per mother, "downhill spiral" started ___ years 
ago. Pt decided
to quit college. Pt returned home and started to work. Pt's 
mother was thinking that pt is getting depressed. Pt started to 
receive therapy in ___. Pt's mother admits that she 
initially didn't encourage pt to start taking meds. End of
___, pt unexpectedly cut his forearm. He called ___. 
Pt's mother was quite traumatized by the event. Pt started to 
receive outpatient treatment with his current providers (at 
___) since his hospital admission in ___.
Pt's mother noticed some improvement of pt's condition. We 
discussed tx recommendations and plan for outpatient follow up. 
Provided pt and his mother with information about pt's condition 
and about medication. Pt and his mother had opportunity to ask 
questions.

On ___, telephone conference was held with patient, his 
mother and inpatient team. We discussed tx plan. Pt and his 
mother agreed with teams to recommendation for pt to stay until 
___ to stabilize pt's condition.

#) INTERVENTIONS
- Medications: Risperdal, Prozac 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare:  He was provided with referrals to 
outpatient psychiatry , therapy, and primary care. 

-Behavioral Interventions: Patient was encouraged to attend 
group which focused on DBT, CBT and mindfulness. 
-Guardianships: none 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication such as day time sedation, development 
of EPS symptoms such as TD, akathisia,  and acute dystonia, also 
aware of increase in suicidal ideation, and serotonin syndrome. 
Risks and benefits of possible alternatives, including not 
taking the medication, with this patient were discussed.   We 
discussed the patient's right to decide whether to take this 
medication as well as the importance of the patient's actively 
participating in the treatment and discussing any questions 
about medications with the treatment team.  The patient appeared 
able to understand and consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
endorsement of increased thoughts of self harm and depression, 
as well as disorganized though process.  Their static factors 
noted at that time include history of suicide attempts, male 
gender, age, marital status.   The modifiable risk factors were 
also addressed at that time including suicidal ideation without 
intent, psychosis, disorganized and unpredictable behavior, 
hopelessness, social withdrawal, limited coping skills, poor 
reality testing, insomnia, lack of purpose, impulsivity, 
polarized thinking, and recent financial loss. Finally, the 
patient is being discharged with many protective risk factors,  
help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, reality testing ability, good coping 
skills, good problem-solving skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, and strong social supports. Based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is, Fair. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. mometasone 0.1 % topical QID:PRN 

 
Discharge Medications:
1.  RisperiDONE 2.5 mg PO QHS psychosis 
RX *risperidone 2 mg 1 (One) tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0
RX *risperidone 0.5 mg 1 (One) tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0 
2.  FLUoxetine 20 mg PO QAM 
RX *fluoxetine 20 mg 1 (One) capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
3.  mometasone 0.1 % topical QID:PRN  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Psychosis, NOS (schizophrenia spectrum condition is on top of 
differential diagnosis list). 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depressed mood, and worsening 
confusion and poor attention.  While you were here you were 
started on some new medications and have responded well.  You 
are now ready to be discharged home. 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___